data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4808,5488,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:22](=[O:23])[O:24][CH3:25])[O:16][N:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,12.198799844971724,-48.049328704142205
760,822,[CH3:15][C:16](=[O:17])[C:18]([CH3:19])=[O+:20][C-:21]([CH3:22])[CH3:23].[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:21]([CH3:22])([CH3:23])[O:20][C:18]3([C:16]([CH3:15])=[O:17])[CH3:19],water,298.15,17.295665396555005,-61.49511480827099
3062,3436,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[CH-:13][N+:14]#[N:15]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]=[N:15]2,water,298.15,24.079468726583272,-3.6193205621256017
1034,1127,[CH3:16][c-:17]1[o+:18][c:19]([C:20]#[N:21])[o:22][c:23]1=[O:24].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:17]1([CH3:16])[O:18][C:19]3([C:20]#[N:21])[O:22][C:23]1=[O:24],water,298.15,8.013603663522936,-46.7109533799714
429,469,[CH3:1][C:2]#[C:3][O:4][CH3:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([C:11]([CH3:12])=[O:13])[N+:14]([CH3:15])=[CH:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C:2]1=[C:3]([O:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:11]([CH3:12])=[O:13])[N:14]([CH3:15])[CH:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,26.455908953975342,-47.18682323503775
2822,3137,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C-:29]([O+:30]=[C:31]([C:32]#[N:33])[C:34]([CH3:35])=[O:36])[c:37]1[cH:38][cH:39][cH:40][cH:41][cH:42]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:31]([C:32]#[N:33])([C:34]([CH3:35])=[O:36])[O:30][C:29]2([C:27]([O:26][CH3:25])=[O:28])[c:37]1[cH:38][cH:39][cH:40][cH:41][cH:42]1,water,298.15,17.745282895150766,-57.530756104916655
4869,5552,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:23](=[O:24])[O:25][CH3:26],water,298.15,7.663461711054679,-30.421683408601137
3713,4240,[CH2-:10][O+:11]=[C:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH2:10][O:11][C:12]1([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,5.647806711301238,-45.05962154932771
757,819,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][N-:16][C:17]([CH3:18])=[O:19].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[NH:15][N:16]2[C:17]([CH3:18])=[O:19],water,298.15,23.293276674677468,-35.37543249815964
1642,1814,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18]([CH3:19])=[O:20])=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]([CH3:19])=[O:20])[N:21]([CH3:22])[C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,44.53209905940518,9.489025687248526
586,642,[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C:15]#[N+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:16]=[C:15]2[C:14]#[N:13],water,298.15,10.915118477570925,-47.35857209503589
